US20010021718A1
tert-Butyl (3R)-3-[({[(Z)-1,2-diamino-2-oxoethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate
(R)-2-[2-(tert-Butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (3.47 g, 11.6 mmol) in dimethylformamide (21 ml) was treated with 1,1′-carbonyidiimidazole (1.97 g, 12.2 mmol) and the mixture was stirred at ambient temperature for 1 hour. N-Dimethylaminopyridine (1.43 g, 11.7 mmol) was then added in one portion, followed by the addition of 2-amino-2-(hydroxyimino)acetamide (1.25 g, 12.1 mmol, Helv.Chim.Acta; 47; 1964; 33-46). The resulting mixture was stirred at room temperature for 24 hours. The mixture was partitioned between ethyl acetate and a 10% solution of citric acid in demineralised water. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with demineralised water (×4) and brine, dried over anhydrous magnesium sulfate, filtered and the solvent removed under reduced pressure. The residue was crystallised from n-hexane, the precipitate was collected by filtration and dried in vacuo to afford the title compound as a colourless solid (3.30 g, 74% yield).

reactant | (R)-2-[2-(tert-Butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 11.6 mmol, 3.47 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1,1′-carbonyidiimidazole | 12.2 mmol, 1.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-Dimethylaminopyridine | 11.7 mmol, 1.43 g | CN(N1CC=CC=C1)C | C7H12N2
reactant | 2-amino-2-(hydroxyimino)acetamide | 12.1 mmol, 1.25 g | NC(C(=O)N)=NO | C2H5N3O2
solvent | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (3R)-3-[({[(Z)-1,2-diamino-2-oxoethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | 3.30 g, 74% yield | N\C(\C(=O)N)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O5
